US07989633B2
Cyclobutyl 5-benzoyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
340 mg (1.02 mmol) of 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione are dissolved with 156 mg (1.8 mmol) of cyclobutyl 3-aminocrotonate in 5 ml of ethanol and heated under reflux under argon for 24 h. The reaction solution is purified by preparative HPLC. Concentration of the product fractions and crystallization from ethyl acetate result in 206 mg (43% of theory) of the title compound as a yellow solid.

reactant | 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione | 1.02 mmol, 340 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)C1=CC=CC=C1)C(C)=O | C21H16O4
reactant | cyclobutyl 3-aminocrotonate | 1.8 mmol, 156 mg | N\C(=C/C(=O)OC1CCC1)\C | C8H13NO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Cyclobutyl 5-benzoyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(C1=CC=CC=C1)(=O)C=1C(C(=C(NC1C)C)C(=O)OC1CCC1)C=1C=CC=C2C(C=C(OC12)C)=O | C29H27NO5
